US08536214B2
a) (S)—N-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide
(S)—N-(5-bromo-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide (1.885 mmol, 600 mg) was dissolved in dry DMF (10 mL) and the mixture degassed by bubbling nitrogen through the solution for 15 min. 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (2.074 mmol, 527 mg), 1,1′-bis(diphenylphosphino)ferrocenedichlorpalladium(II) (0.057 mmol, 40.9 mg) and potassium acetate (6.22 mmol, 611 mg) were then added and the mixture heated to 60° C. for 29 h. After this time the reaction temperature was increased to 80° C. and stirring continued for a further 24 h. The reaction mixture was then concentrated and diluted with EtOAc and water. The biphasic mixture was filtered through a dicalite pad before the phases were mixed and separated. The aqueous layer was further extracted with EtOAc (×2) and combined organics washed with brine, dried filtered and concentrated to give a dark brown residue. The mixture was purified on 20 g Si eluting with 20-40% EtOAc/Heptane to give the desired compound (280 mg, 0.766 mmol, 40.7%). 1H NMR (400 MHz, CDCl3) δ 1.36 (m, 18H) 2.90 (m, 2H) 3.15 (m, 1H) 3.27 (m, 2H), 4.25 (m, 1H) 4.55 (m, 1H), 7.20 (m 2H), 7.65 (m, 1H).

reactant | (S)—N-(5-bromo-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | 1.885 mmol, 600 mg | BrC=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C | C12H16BrNO2S
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 2.074 mmol, 527 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 6.22 mmol, 611 mg | C(C)(=O)[O-].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | 1,1′-bis(diphenylphosphino)ferrocenedichlorpalladium(II) | 0.057 mmol, 40.9 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)—N-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | 0.766 mmol, 280 mg, 40.7% | CC1(OB(OC1(C)C)C=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C)C | C18H28BNO4S
